US04203980
Preparation of 2,4-diamino-5-(3-ethoxy-4-isopropenyl-5-methoxybenzyl)-pyrimidine
A solution of 16.1 ml. of ethylmercaptan in 130 ml. of dimethylformamide was added dropwise while stirring and gassing with nitrogen to a suspension of 10.4 g. of sodium hydride (50%) in 130 ml. of dimethylformamide. After the evolution of gas had ceased, the mixture was stirred at room temperature for an additional 15 minutes and treated with a solution 13 g. of 2,4-diamino-5-(4-isopropenyl-3,5-dimethoxybenzyl)-pyrimidine in 260 ml. of dimethylformamide. The mixture was stirred at 120° C. for 6 hours. The solvent was removed under a high vacuum. The solid residue was dissolved in water, filtered and the filtrate was adjusted to pH 4 with 1-N hydrochloric acid. The acid solution was then adjusted to pH 8 with ammonia and the solid crude product was isolated in a yield of 98%. Recrystallization from methanol yielded pure 2,4-diamino-5-(3-hydroxy-4-isopropenyl-5-methoxybenzyl)-pyrimidine, having a melting point of 218°-219° C.

reactant | ethylmercaptan | C(C)S | C2H6S
reactant | sodium hydride | [H-].[Na+]
reactant | 2,4-diamino-5-(4-isopropenyl-3,5-dimethoxybenzyl)-pyrimidine | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OC)C(=C)C)OC | C16H20N4O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2,4-diamino-5-(3-ethoxy-4-isopropenyl-5-methoxybenzyl)-pyrimidine | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OC)C(=C)C)OCC | C17H22N4O2
